* SEN_CABIN — субсхема из нетлиста KiCad + YAML
.subckt SEN_CABIN GND M_FAN_CTL NTC_CABIN VCC_12V PARAMS: RT1_T RT1_R25 RT1_BETA
  D3 Net-(D3-K) VCC_12V MyD
  * J5: Conn_01x02 (Внутр. коннектор вентилятора продувки (2п, XH)) — не моделируется
  * Q2: AO3400A (AO3400) — не моделируется
  R16 M_FAN_CTL GND 1k
  R17 GND GND 10k
  XRT1 NTC_CABIN GND NTC_10K_3435 T={RT1_T} R25={RT1_R25} BETA={RT1_BETA}
.ends SEN_CABIN
